US05739345
5-[4-{3-(4-Phenylbenzyl)imidazo[5,4-b]pyridin-2-ylmethoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.5 g of 2-hydroxymethyl-3-(4-phenylbenzyl)imidazo[5,4-b]pyridine (prepared as described in Preparation 54), 0.738 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione, 0.43 ml of tributylphosphine, 0.4 g of 1,1'-(azodicarbonyl)dipiperidine and 20 ml of benzene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in ratios ranging from 1:2 to 1:3 by volume as the eluent, to give 0.95 g of the title compound having Rf=0.44 (on silica gel thin layer chromatography using a 1:3 by volume mixture of hexane and ethyl acetate as the developing solvent).

reactant | 2-hydroxymethyl-3-(4-phenylbenzyl)imidazo[5,4-b]pyridine | 0.5 g | OCC=1N(C2=NC=CC=C2N1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C20H17N3O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 0.738 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 0.43 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 0.4 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 5-[4-{3-(4-Phenylbenzyl)imidazo[5,4-b]pyridin-2-ylmethoxy}benzyl]-3-triphenylmethylthiazolidine-2,4-dione | C1(=CC=CC=C1)C1=CC=C(CN2C(=NC=3C2=NC=CC3)COC3=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C3)C=C1 | C49H38N4O3S
